US03992389
4-Benzamido-1-[2-(2-naphthyl)ethyl]piperidine
2-(2-Naphthyl)ethanol (3.44 g., 0.02 mole), 4-benzamidopiperidine (4.08 g.,0.02 mole) and Raney Nickel (W7 ca. 5 g.) were suspended in xylene (200 ml.) and the stirred mixture boiled under reflux for 16 hours. Liberated water was removed by means of a Dean and Stark apparatus. The mixture was filtered hot and evaporated to ca. 100 ml. The resulting yellow solution was stored until crystallisation was complete. The title compound was obtained as off-white needles (3.30 g.), m.p. 189°-191° C.

reactant | 2-(2-Naphthyl)ethanol | 0.02 mole, 3.44 g | C1=C(C=CC2=CC=CC=C12)CCO | C12H12O
reactant | 4-benzamidopiperidine | 0.02 mole, 4.08 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
catalyst | Raney Nickel | ca. 5 g | [Ni] | Ni
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Benzamido-1-[2-(2-naphthyl)ethyl]piperidine | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCC1=CC2=CC=CC=C2C=C1 | C24H26N2O
